US07074801B1
460 mg of N1-[3-(methylsulfanyl)phenyl]-4-bromo-2-fluorobenzamide obtained in the same manner as in Production Example 32 from 4-bromo-2-fluorobenzoic acid and 3-(methylthio)aniline was stirred for 1.5 hours together with 1.23 g oxone in 15 mL tetrahydrofuran, 10 mL methanol and 10 mL water. The reaction solution was extracted with ethylacetate and purified by NH silica gel column to give 500 mg of the title compound.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | 3-(methylthio)aniline | CSC=1C=C(N)C=CC1 | C7H9NS
product | N1-[3-(methylsulfanyl)phenyl]-4-bromo-2-fluorobenzamide | 460 mg | CSC=1C=C(C=CC1)NC(C1=C(C=C(C=C1)Br)F)=O | C14H11BrFNOS
